US05004814
(b) 2-Benzylthionaphthacene-5,12-dione
A mixture of 0.27 g (0.0012 mol) of 4-benzylthio-2-oxo-2H-pyrane, 0.25 g (0.0012 mol) of 1,4-anthraquinone and 0.10 g (0.0012 mol) of MnO2 in 5 ml of dichlorobenzene is heated for 24 hours under reflux (180° C.), then cooled and chromatographed over silica gel. Using cyclohexane as eluant, dichlorbenzene is first extracted, then the crude product is chromatographed with CH2Cl2. The pre-purified product is chromatographed once more, using CH2Cl2 as eluant, and the solvent is removed by evaporation. Yield: 0.09 g (20%). Melting point: 200°-203° C.

reactant | 4-benzylthio-2-oxo-2H-pyrane | 0.0012 mol, 0.27 g | C(C1=CC=CC=C1)SC1=CC(OC=C1)=O | C12H10O2S
reactant | 1,4-anthraquinone | 0.0012 mol, 0.25 g | C1(C=CC(C2=CC3=CC=CC=C3C=C12)=O)=O | C14H8O2
solvent | dichlorobenzene | 5 ml | C1=CC(=CC=C1Cl)Cl | C6H4Cl2
catalyst | MnO2 | 0.0012 mol, 0.10 g | O=[Mn]=O
product | 2-Benzylthionaphthacene-5,12-dione | C(C1=CC=CC=C1)SC1=CC=2C(C3=CC4=CC=CC=C4C=C3C(C2C=C1)=O)=O | C25H16O2S
